US06670194B1
1,11-Dicyano-3,6,9-trioxaundecane (13)
To a stirred solution of 2% (w/v) sodium hydroxide (5 mL) and diethylene glycol (5.3 g, 50 mmol) was added acrylonitrile (7.95 g, 150 mmol). The mixture was stirred at room temperature overnight and additioned with 50 mL dichloromethane. The organic layer was washed 2× with brine and dried (MgSO4). The solvent was removed by rotary evaporation. The oily residue was treated with 200 proof ethanol, and the solvent was removed by rotary evaporation. This was repeated 2× to remove excess unreacted acrylonitrile. The product was used without further purification

reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | diethylene glycol | 50 mmol, 5.3 g | C(COCCO)O | C4H10O3
reactant | acrylonitrile | 150 mmol, 7.95 g | C(C=C)#N | C3H3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1,11-Dicyano-3,6,9-trioxaundecane | C(#N)CCOCCOCCOCCC#N | C10H16N2O3
